US05310837
II-I. 4'-ethoxy-2-ethyl-4-hydroxyazobenzene
0.8 mol (109.8 g) of p-phenetidine and 2.1 mol (450 ml) of 16% hydrochloric acid were charged to a round bottomed flask. With cooling of the suspension to about 3° C., 59.2 g (0.8 mol) of NaNO2 dissolved in 320 ml of water was added dropwise over 2.5 hr. During this process the temperature was maintained between 1° and 4° C. After completion of the addition, the mixture was stirred for another 3 hr at 0°-3° C., and was allowed to stand overnight in a refrigerator. A solution of 0.8 mol (97.7 g) of 3-ethylphenol in 800 ml of 2N sodium hydroxide cooled to 5° C. was added dropwise to this suspension at 2° C., over a period of 2 hr, under stirring. An orange-yellow suspension resulted. The reaction mixture was allowed to warm up to room temperature, and was stirred an additional 1 hr. The raw product was then separated by suction filtration and was washed with cold, distilled water. The filter cake was boiled with 2 L of 50:50 ethanol/water mixture, followed by filtration. The resulting 2-phase mixture was allowed to cool under stirring. A brown-red solid precipitated, which was separated by suction filtration, followed by neutral washing. After drying, the product was obtained in a yield of 61% of theoretical.

reactant | p-phenetidine | 0.8 mol, 109.8 g | CCOC=1C=CC(=CC1)N | C8H11NO
reactant | hydrochloric acid | 2.1 mol, 450 ml | Cl | ClH
reactant | NaNO2 | 0.8 mol, 59.2 g | N(=O)[O-].[Na+]
reactant | 3-ethylphenol | 0.8 mol, 97.7 g | C(C)C=1C=C(C=CC1)O | C8H10O
solvent | water | 320 ml | O | H2O
solvent | sodium hydroxide | 2N, 800 ml | [OH-].[Na+]
product | 4'-ethoxy-2-ethyl-4-hydroxyazobenzene | yield of 61% | C(C)OC1=CC=C(C=C1)N=NC1=C(C=C(C=C1)O)CC | C16H18N2O2
